US08664238B2
Preparation of 3-diethylamino chloropropane hydrochloride (VIIf)
10 ml toluene, 3 ml (28.9 mmol) of diethylamine and 2.9 ml (34.6 mmol) of 3-chloropropanol were added successively into a reaction flask, and the mixture was heated to the reflux temperature and reacted for 6 h. After cooling to room temperature, the mixture was washed with 5% NaOH solution and saturated saline solution, successively, and dried over anhydrous sodium sulfate, then filtered. 4.2 ml (57.7 mmol) of thionyl chloride was added dropwise into the filtrate in an ice-bath, and the mixture was stirred at room temperature overnight. The reaction solution was concentrated to dry in a reduced pressure and the residue was recrystallized with absolute ethyl alcohol to obtain 2.1 g white solid with the yield of 40%. m.p. 80-82° C.

reactant | diethylamine | 28.9 mmol, 3 ml | C(C)NCC | C4H11N
reactant | 3-chloropropanol | 34.6 mmol, 2.9 ml | ClCCCO | C3H7ClO
reactant | thionyl chloride | 57.7 mmol, 4.2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3-diethylamino chloropropane hydrochloride | 2.1 g, yield of 40% | Cl.C(C)N(CCCCl)CC | InChI=1S/C7H16ClN.ClH/c1-3-9(4-2)7-5-6-8;/h3-7H2,1-2H3;1H
